US06448281B1
Ethyl 5-Amino-6-cyclohexylaminonicotinate
Ethyl 6-chloro-5-nitronicotinate (1.00 g, 4.33 mmol) prepared according to A. H. Berrie et al. (J. Chem. Soc. 1951, 2590) was dissolved in DMSO (2 mL) and cyclohexylamine (0.54 g, 5.4 mmol) was added. The mixture was stirred for 1 h at room temperature, diluted with water and the yellow precipitated collected by filtration. The product was washed with water and dried (0.95 g, 74% yield).

reactant | Ethyl 6-chloro-5-nitronicotinate | 4.33 mmol, 1.00 g | ClC1=NC=C(C(=O)OCC)C=C1[N+](=O)[O-] | C8H7ClN2O4
reactant | cyclohexylamine | 5.4 mmol, 0.54 g | C1(CCCCC1)N | C6H13N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Ethyl 5-Amino-6-cyclohexylaminonicotinate | 74% yield | NC=1C(=NC=C(C(=O)OCC)C1)NC1CCCCC1 | C14H21N3O2
